* /home/ash98/esim-workspace/74ls147-test/74ls147-test.cir

.include 74LS175.sub
x1 mr q0 q0_inv d0 ? ? ? gnd clk ? ? ? ? ? ? net-_x1-pad16_ 74LS175
v4  clk gnd pulse(0 5 0 0 0 10e-6 20e-6)
* u5  clk plot_v1
v1  mr gnd pulse(5 0 0 0 0 100e-6 200e-6)
* u1  mr plot_v1
v2  d0 gnd pulse(0 5 0 0 0 25e-6 50e-6)
* u4  d0 plot_v1
r1  q0 gnd 1k
r2  q0_inv gnd 1k
v3 net-_x1-pad16_ gnd  dc 5
* u2  q0 plot_v1
* u3  q0_inv plot_v1
.tran 1e-06 1000e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(mr)
plot v(d0)
plot v(q0)
plot v(q0_inv)
.endc
.end
