* /home/ash98/esim-workspace/74ls32-test/74ls32-test.cir

.include 74LS32.sub
v1  in1 gnd pulse(0 2 0 0 0 14e-7 28e-7)
v2  in2 gnd pulse(0 2 0 0 0 7e-7 14e-7)
r1  in1 net-_r1-pad2_ 1k
r3  in2 net-_r3-pad2_ 1k
* u1  in1 plot_v1
* u2  in2 plot_v1
r2  out gnd 1k
* u3  out plot_v1
x1 net-_r1-pad2_ net-_r3-pad2_ out ? ? ? gnd ? ? ? ? ? ? net-_x1-pad14_ 74LS32
v3 net-_x1-pad14_ gnd  dc 10
.tran 1e-09 5000e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out)
.endc
.end
