* Subcircuit INVCMOS
.subckt INVCMOS net-_m1-pad2_ net-_c1-pad1_ 
* /home/saurabh/downloads/esim-1.1.2/src/subcircuitlibrary/invcmos/invcmos.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 net-_c1-pad1_ net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m2 net-_m2-pad1_ net-_m1-pad2_ net-_c1-pad1_ net-_m2-pad1_ CMOSP W=100u L=100u M=1
v1  net-_m2-pad1_ gnd 5
c1  net-_c1-pad1_ gnd 1n
* Control Statements

.ends INVCMOS