* /home/ash98/esim-workspace/74ls93a-test/74ls93a-test.cir

.include 74LS93A.sub
x1 qa net-_x1-pad2_ net-_x1-pad3_ ? net-_x1-pad5_ ? ? qc qb gnd qd qa ? count 74LS93A
v2  count gnd pulse(0 5 0 0 0 14e-6 28e-6)
r1  qd gnd 1k
r2  qc gnd 1k
r3  qb gnd 1k
r4  qa gnd 1k
v1 net-_x1-pad5_ gnd  dc 5
* u5  count plot_v1
* u2  qa plot_v1
* u3  qd plot_v1
* u4  qb plot_v1
* u1  qc plot_v1
v4  net-_x1-pad3_ net-_x1-pad5_ 5
v3  net-_x1-pad2_ net-_x1-pad5_ 0
.tran 1e-06 500e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(count)
plot v(qa)
plot v(qd)
plot v(qb)
plot v(qc)
.endc
.end
