* Subcircuit 4_and
.subckt 4_and net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ 
* /home/ash98/downloads/esim-1.1.3/src/subcircuitlibrary/4_and/4_and.cir
.include 3_and.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u2-pad1_ 3_and
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u1-pad5_ d_and
* u3  net-_u1-pad4_ net-_u1-pad4_ net-_u2-pad2_ d_and
a1 [net-_u2-pad1_ net-_u2-pad2_ ] net-_u1-pad5_ u2
a2 [net-_u1-pad4_ net-_u1-pad4_ ] net-_u2-pad2_ u3
* Schematic Name: d_and, NgSpice Name: d_and
.model u2 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_and, NgSpice Name: d_and
.model u3 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Control Statements

.ends 4_and